US06362178B1
2-Ethoxybenzonitrile
25 g (210 mmol) of 2-hydroxybenzonitrile are refluxed with 87 g of potassium carbonate and 34.3 g (314.8 mmol) of ethyl bromide in 500 ml of acetone overnight. The solid is filtered off, the solvent is removed under reduced pressure and the residue is distilled under reduced pressure. This gives 30.0 g (97%) of a colourless liquid.

reactant | 2-hydroxybenzonitrile | 210 mmol, 25 g | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | potassium carbonate | 87 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 314.8 mmol, 34.3 g | C(C)Br | C2H5Br
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 2-Ethoxybenzonitrile | C(C)OC1=C(C#N)C=CC=C1 | C9H9NO
